US06197729B1
d) 4-(2,2-difluoro-1-methylethyl)cyclohexanol
At 50° C. and 150 bar, 19.7 g of 4-(2,2-difluoro-1-methylethyl)phenol in 150 ml of isopropanol were hydrogenated in the presence of rhodium on carbon as catalyst for 20 h. The catalyst was filtered off and the reaction solution was concentrated, giving 16.9 g (83% of theory) of product as a colourless oil which was reacted further without any purification.

reactant | 4-(2,2-difluoro-1-methylethyl)phenol | 19.7 g | FC(C(C)C1=CC=C(C=C1)O)F | C9H10F2O
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
catalyst | rhodium on carbon | [Rh] | Rh
product | 4-(2,2-difluoro-1-methylethyl)cyclohexanol | FC(C(C)C1CCC(CC1)O)F | C9H16F2O
